************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: BMXIX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:39:43 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    BMXIX2
* View Name:    schematic
************************************************************************

.SUBCKT BMXIX2 A M0 M1 PPN S VDD VSS X2
*.PININFO A:I M0:I M1:I S:I VDD:I VSS:I X2:I PPN:O
Mmn10 n1 M1 n9 VSS g45n1svt m=1 l=45n w=145n
Mmn9 n9 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn8 n1 M1b n7 VSS g45n1svt m=1 l=45n w=145n
Mmn7 n7 S VSS VSS g45n1svt m=1 l=45n w=145n
Mmn3 n3 S VSS VSS g45n1svt m=1 l=45n w=145n
Mmn4 n0 M0b n3 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net293 X2 n0 VSS g45n1svt m=1 l=45n w=145n
Mmn6 n0 M0 n5 VSS g45n1svt m=1 l=45n w=145n
Mmn13 PPN net293 VSS VSS g45n1svt m=1 l=45n w=520n
Mmn5 n5 A VSS VSS g45n1svt m=1 l=45n w=145n
Mmn12 n1 X2b net293 VSS g45n1svt m=1 l=45n w=145n
Mmn0 M0b M0 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn1 M1b M1 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn2 X2b X2 VSS VSS g45n1svt m=1 l=45n w=145n
Mmp8 n1 M1 n8 VDD g45p1svt m=1 l=45n w=215n
Mmp7 n8 S VDD VDD g45p1svt m=1 l=45n w=215n
Mmp3 n4 S VDD VDD g45p1svt m=1 l=45n w=215n
Mmp4 n0 M0 n4 VDD g45p1svt m=1 l=45n w=215n
Mmp9 n10 A VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 n1 M1b n10 VDD g45p1svt m=1 l=45n w=215n
Mmp2 X2b X2 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp6 n0 M0b n6 VDD g45p1svt m=1 l=45n w=215n
Mmp0 M0b M0 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 M1b M1 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp13 PPN net293 VDD VDD g45p1svt m=1 l=45n w=780n
Mmp12 n1 X2 net293 VDD g45p1svt m=1 l=45n w=215n
Mmp11 net293 X2b n0 VDD g45p1svt m=1 l=45n w=215n
Mmp5 n6 A VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

